US06815447B2
Into an oven-dried three neck round bottom, equipped with reflux condenser and nitrogen inlet, and two addition funnels with stoppers, were added oven-activated 5 Å molecular sieves under a stream of dry nitrogen. Sodium hydride (95%) 3.03 grams (0.126 mole) was added to the room temperature flask followed by 40 mL of dry DMF. Stirring was initiated to achieve a suspension of the solids. A solution of guanidine hydrochloride, 11.9 grams (0.125 mole) dissolved in 40 mL of dry DMF was added dropwise via addition funnel over 0.25 hours and stirring was continued for 0.5 hours at room temperature. 3-(4-Fluorophenyl)-3-oxo-propionic ethyl ester, 26.28 grams (0.125 mole) was dissolved in 75 mL of dry DMF and added to the reaction flask via dropper funnel over 0.25 hours. The mixture was then heated at reflux overnight. The mixture was filtered hot and concentrated to afford a heterogeneous mixture. Water, 100 mL, was added and a solid that formed was filtered off and dried. The solid was recrystallized from methanol to afford 4-hydroxy-6-(4-fluorophenyl)pyrimidin-2-amine (51% yield). Hydroxy-pyrimidine compounds were used in the procedure of Method G.

reactant | Sodium hydride | 0.126 mole, 3.03 grams | [H-].[Na+]
reactant | guanidine hydrochloride | Cl.NC(=N)N
reactant | 3-(4-Fluorophenyl)-3-oxo-propionic ethyl ester | C(C)OC(CC(=O)C1=CC=C(C=C1)F)=O | C11H11FO3
reactant | Water | O | H2O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 4-hydroxy-6-(4-fluorophenyl)pyrimidin-2-amine | 51% yield | OC1=NC(=NC(=C1)C1=CC=C(C=C1)F)N | C10H8FN3O
